US07338959B2
A. N-Ethyl-4-nitro-benzene-1,2-diamine
2-fluoro-5-nitroaniline (5 g, 32 mmol) and a solution of ethyl amine (32 ml, 2M in THF) were coupled according to the procedure of intermediate example one part A to give the title compound as a dark red solid 4.16 g, 72%). 1H NMR (300 MHz, d6-DMSO) δ7.51 (dd, J=8.7 and 2.7 Hz, 1H), 7.38 (d, J=2.7 Hz, 1H), 6.44 (d, J=8.7 Hz, 1H), 5.86 (t, J=4.6 Hz, 1H), 5.15 (s, 2H), 3.20 (m, 2H), 1.21 (t, J=7.2 Hz, 3H).

reactant | 2-fluoro-5-nitroaniline | 32 mmol, 5 g | FC1=C(N)C=C(C=C1)[N+](=O)[O-] | C6H5FN2O2
reactant | ethyl amine | 2M, 32 ml | C(C)N | C2H7N
product | N-Ethyl-4-nitro-benzene-1,2-diamine | 4.16 g, 72% | C(C)NC=1C(=CC(=CC1)[N+](=O)[O-])N | C8H11N3O2
